US06432976B1
3-(4-Chloro-benzyl)-8-aza-bicyclo[3.2.1]octane
A mixture of 2 g of 3-(4-chloro-benzyl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester, 20 mL of 48% HBr and 5 mL of acetic acid was heated to reflux for 2 h. After cooling in an ice bath, the solution was basified to pH 10 by addition of NaOH pellets, extracted with 3×100 mL of chloroform, and the combined extracts dried over MgSO4. Removal of solvents under reduced pressure gave 1.5 g of 2:1 exo:endo 3-(4-chloro-benzyl)-8-aza-bicyclo[3.2.1]octane as a thick oil.

reactant | 3-(4-chloro-benzyl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester | 2 g | C(C)OC(=O)N1C2CC(CC1CC2)CC2=CC=C(C=C2)Cl | C17H22ClNO2
reactant | HBr | 20 mL | Br | BrH
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3-(4-Chloro-benzyl)-8-aza-bicyclo[3.2.1]octane | ClC1=CC=C(CC2CC3CCC(C2)N3)C=C1 | C14H18ClN
